US04014920
4.45 g (0.0146 mol) of 1-[2-allyloxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane are heated with a solution of 1.26 ml (0.0146 mol) of isopropylamine in 100 ml of isopropanol for 3 hours under reflux to 80°C. The mixture is then evaporated under reduced pressure and the resulting crude base is crystallised from acetone-ether. 1-[2-Allyloxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylamino-propane of melting point 91°-92° is obtained. From this, the fumarate, melting point 169°-170° (after recrystallisation from methanol-isopropanol) is obtained after dissolving in isopropanol and adding the calculated amount of fumaric acid.

reactant | 1-[2-allyloxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | 0.0146 mol, 4.45 g | C(C=C)OC1=C(OCC2CO2)C=CC(=C1)C=CNC(=O)OC | C16H19NO5
reactant | isopropylamine | 0.0146 mol, 1.26 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[2-Allyloxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylamino-propane | C(C=C)OC1=C(OCC(CNC(C)C)O)C=CC(=C1)C=CNC(=O)OC | C19H28N2O5
